US07465749B2
U.S. Pat. No. 5,473,078 (“the '078 patent”) describes a method for preparing 4-[1-(1,2,4-triazolyl)methyl]benzonitrile by refluxing a solution of c-bromo-4-tolunitrile with 1,2,4-triazole for 15 hours in a mixture of acetonitrile and chloroform. The intermediate is purified by chromatography on silica gel, eluting with chloroform and isopropanol, and then reacted with 4-fluorobenzonitrile and potassium tert-butoxide in DMF, to obtain letrozole. An exemplary process described in the '078 patent is generally depicted in Scheme 1.

reactant | 4-[1-(1,2,4-triazolyl)methyl]benzonitrile | N1N=C(N=C1)CC1=CC=C(C#N)C=C1 | C10H8N4
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
solvent | acetonitrile | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | letrozole | C1=CC(=CC=C1C#N)C(C=2C=CC(=CC2)C#N)N3C=NC=N3 | C17H11N5
